US08633173B2
8-(4-Methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (200.0 mg, 0.9388 mmol) and (4-methanesulfonylmethylphenyl)boronic acid (240.0 mg, 1.121 mmol) with Pd(dppf)Cl2 (130.0 mg) as the catalyst in a manner analogous to Step 2c. The reaction product was isolated as a pale yellow solid (0.051 g, 18%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.56 (dd, J=6.6, 1.0 Hz, 1H), 8.12 (d, J=8.3 Hz, 2H), 7.73 (dd, J=7.5, 1.0 Hz, 1H), 7.52 (d, J=8.3 Hz, 2H), 6.99 (dd, J=7.3, 7.3 Hz, 1H), 6.11 (s, 1H), 4.55 (s, 2H), 2.94 (s, 3H). MS=303 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.9388 mmol, 200.0 mg | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | (4-methanesulfonylmethylphenyl)boronic acid | 1.121 mmol, 240.0 mg | CS(=O)(=O)CC1=CC=C(C=C1)B(O)O | C8H11BO4S
catalyst | Pd(dppf)Cl2 | 130.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(4-Methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CS(=O)(=O)CC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C14H14N4O2S
